Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Demerol / Ativan
 
Attending: ___
 
Chief Complaint:
abdominal pain, nausea, vomitting
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Patient is a ___ y/o M w/ h/o DM, c/b gastroparesis, s/p 
pancreatic trasnplant in ___ with multiple recent 
admissions for abdominal pain, nausea, and vomiting ___ 
gastroparesis.  Patient presents to the ED now with symptoms of 
abdominal pain and vomiting x48 hours.  He describes these as 
entirely similar to his previous episodes.  He says the pain is 
severe, epigastric discomfort.  It does not radiate to the back. 
 He denies any fevers, chills, change to his bowel habits, sick 
contacts, recent travel or other complaints.  He was last able 
to keep down food and liquid yesterday and says that for two 
days 
.
In the ED, inital VS were T99.4, BP 106/47, HR 82, RR 16, O2 
100% RA.  Exam notable for diffuse abdominal tenderness without 
rebound or guarding.  Patient was given 4mg IV dilaudid, 12.5 
phenergan, zofran x3, valium, and ___ NS and admitted to 
medicine for management.  Patient seen by transplant surgery in 
the ED and felt no acute surgical admission.
.
On arrival to the floor T 95.9, BP151/91, HR 86, RR 20, 98% RA.

 
Past Medical History:
Pancreatic transplant ___  
DM2 c/b gastroparesis, peripheral neuropathy  
Hep C  
Glaucoma  
?Seizures  
Right knee surgery 

 
Social History:
___
Family History:
NC
 
Physical Exam:
T 95.9, BP151/91, HR 86, RR 20, 98% RA
Gen: Calm caucasian man resting comfortably in bed
HEENT: NCAT, mmm, o/p clear
Neck: Supple
Lungs: CTABL
Heart: RRR, no m/r/g noted
Abd: soft, + tenderness to palpation in epigastrum, no rebound 
no guarding, no other focal tenderness, no ecchymoses
Ext: wwp, no c/c/e
Neuro: AOx3, appropriate
Skin: No rashes, multiple tatoos

 
Pertinent Results:
___ 11:50AM BLOOD WBC-6.7 RBC-5.23 Hgb-14.9 Hct-44.9 MCV-86 
MCH-28.5 MCHC-33.2 RDW-14.1 Plt ___
___ 05:00AM BLOOD WBC-3.3* RBC-4.05* Hgb-11.8* Hct-35.6* 
MCV-88 MCH-29.2 MCHC-33.2 RDW-13.8 Plt ___
___ 11:50AM BLOOD Neuts-88.9* Lymphs-7.5* Monos-2.6 Eos-0.8 
Baso-0.2
___ 05:00AM BLOOD ___
___ 11:50AM BLOOD Glucose-135* UreaN-16 Creat-1.2 Na-140 
K-5.1 Cl-102 HCO3-17* AnGap-26*
___ 05:05AM BLOOD Glucose-111* UreaN-11 Creat-0.8 Na-140 
K-3.7 Cl-106 HCO3-21* AnGap-17
___ 05:00AM BLOOD Glucose-88 UreaN-3* Creat-0.7 Na-141 
K-3.6 Cl-106 HCO3-22 AnGap-17
___ 11:50AM BLOOD ALT-15 AST-36 AlkPhos-132* TotBili-0.5
___ 05:00AM BLOOD Amylase-38
___ 11:50AM BLOOD Calcium-10.1 Phos-2.1*# Mg-2.0
___ 05:00AM BLOOD Calcium-8.5 Phos-3.7 Mg-1.7
___ 05:00AM BLOOD tacroFK-4.3* rapmycn-2.4*
___ 10:25PM BLOOD ___ pO2-114* pCO2-36 pH-7.37 
calTCO2-22 Base XS--3 Comment-___
___ 11:59AM BLOOD Glucose-124* Lactate-4.1* K-4.2
___ 10:25PM BLOOD Lactate-1.0

KUB ___: No evidence of obstruction or perforation.

CXR ___: Lungs fully expanded and clear. Heart size is normal. 
Aortic arch is right-sided. The vasculature is otherwise 
unremarkable. No pleural 
abnormality. Tiny metal fragment in the soft tissues of the left 
anterior 
chest wall has been present since at least ___. 

 
Brief Hospital Course:
# Abdominal Pain/Nausea: Patient was admitted with 48 hour 
history of poor PO intake nausea and vomitting associated with 
abdominal pain.  He was made NPO, started on dilaudid IV and 
given IV zofran and prochlorperazine.   Surgery was consulted 
and felt this was gastroparesis exacerbation.  KUB negative for 
obstruction or perforation.  While NPO he was given maintenance 
fluids with ___.  NG tube was not required.  Pain improved 
with dilauid IV within 24 hours.  On second night of admission, 
patient was tolerating liquids well and was transferred to oral 
pain medication the morning of discharge.  Diet was advanced to 
regular prior to discharge and patient was tolerated a full meal 
with no pain, nausea or vomitting.  Patient was discharged to 
follow-up with Dr. ___.
.
# Pancreatic Transplant: Immunosuppresant levels were monitored 
during admission and determined to be subtherapeutic - patient 
had poor PO intake, however stated he was taking prograf 
sublingualy. Rapamycin level was 2.3 on day of discharge.   
Tacrolimus was increased to 4mg bid and patient was instructed 
to follow-up with Dr. ___ in ___ weeks.
.
# Acute Renal Failure - Patient admitted in ARF with creatinine 
1.2 from baseline of 0.7.  Ws given fluids for likely pre-renal 
state and renal function returned to baseline.
.
# Gap Acidosis and Metabolic derrangements: Likely ___ lactic 
acidosis.  Gap closed with IV fluids.
 
Medications on Admission:
Tacrolimus 1 mg Capsule Sig: 3mg BID 
Sirolimus 1 mg Tablet Sig: 3mg daily
Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One daily
Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: 90mg daily
Gabapentin 300 mg Capsule Sig: Two (2) Capsule PO Q8H
Metoclopramide 10 mg Tablet Sig: Two (2) Tablet PO QIDACHS
Topiramate 25 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for headache.  
Compazine 10 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for nausea.  
Fentanyl 50 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).  
Dronabinol 2.5 mg Capsule Sig: Four (4) Capsule PO TID (3 
times a day) as needed for nausea.  
Diazepam 10 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for anxiety.  
Hydromorphone 2 mg Tablet Sig: One (1) Tablet PO Q4H (every 
4 hours) as needed for pain for 14 days.
Sucralfate 1 gram Tablet Sig: One (1) Tablet PO TID (3 times 
a day) for 14 days
Zofran 4 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for nausea.  
Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
Omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day for 30 days.

 
Discharge Medications:
1. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Three 
(3) Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
2. Gabapentin 300 mg Capsule Sig: Two (2) Capsule PO TID (3 
times a day).  
3. Topamax 25 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for headache.  
4. Metoclopramide 10 mg Tablet Sig: Two (2) Tablet PO QIDACHS (4 
times a day (before meals and at bedtime)).  
5. Compazine 10 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for nausea.
Disp:*10 Tablet(s)* Refills:*0*
6. Fentanyl 50 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).  
7. Dronabinol 10 mg Capsule Sig: One (1) Capsule PO TID (3 times 
a day).  
8. Diazepam 10 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed: do NOT drive while taking this medication as it 
may cause sedation.  
9. Hydromorphone 2 mg Tablet Sig: One (1) Tablet PO every four 
(4) hours as needed for pain: do NOT drive while taking this 
medication as it may cause sedation.
Disp:*84 Tablet(s)* Refills:*0*
10. Sirolimus 1 mg Tablet Sig: Four (4) Tablet PO DAILY (Daily).
Disp:*120 Tablet(s)* Refills:*2*
11. Tacrolimus 1 mg Capsule Sig: Four (4) Capsule PO Q12H (every 
12 hours).
Disp:*240 Capsule(s)* Refills:*2*
12. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
13. Zofran 4 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for nausea: this medication can cause 
constipation and slow your GI tract.  
14. Omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day for 14 days.  
15. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
16. Tacrolimus 1 mg Capsule Sig: Six (6) Capsule PO at bedtime 
for 1 doses: at 6pm on ___.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diabetic Gastroparesis
Acute Renal Failure
Abdominal Pain

 
Discharge Condition:
Good, tolerating PO's, pain free, ambulating independently

 
Discharge Instructions:
You were admitted to the hospital for evaluation of abdominal 
pain, dehydration, and kidney injury.  Your symptoms were 
consistent with your previous episodes of diabetic 
gastroparesis, and no other concerning findings were found.  You 
were given IV fluids, pain control, and anti-nausea medications 
and your symptoms improved.  It is important that you follow-up 
with Dr. ___ for further evaluation of your 
gastroparesis and consideration of additional therapies.  You 
have been given an appointment for later this week with Dr. 
___ Nurse Practitioner.  ___ your pain, please try and avoid 
taking narcotics as these will only make your symptoms worse in 
the long run.  You should follow-up with your primary care 
doctor and ___ pain specialist to discuss other modalities for 
treating your pain.  
.
Please return to the hospital if you experience any worsening 
abdominal pain, chest pain, shortness of breath, severe nausea, 
fevers, or are unable to tolerate food/drink by mouth.
.
The following changes were made to your medications:
1.  Tacrolimus 4mg PO BID (increased from 3mg BID)
2.  Sirolimus 4mg daily (increased from 3mg daily)
3.  When taking sublingual tacrolimus, please take only 3mg per 
dose (and not 4mg).
4.  Please take a one time dose of tacrolimus 6mg this evening 
instead of the usual 4mg dose.
.
 
Followup Instructions:
___